US07759379B2
a) 3-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione
7.26 g (36.7 mmol) of diphosgene were initially charged at −20° C. in 80 ml of 1,2-dichloroethane, and 3.0 g (14.5 mmol) of 1-(6-amino-3,3-dimethyl-2,3-dihydroindol-1-yl)ethanone, dissolved in 80 ml of 1,2-dichloroethane, were added dropwise. After stirring at RT for 2 h and reflux for 1 h, the mixture was concentrated fully. The remaining residue was dissolved in 80 ml of THF, added to a solution of 3.06 g (14.7 mmol) of methyl 2-methyl-2-[(pyridin-4-ylmethyl)amino]propionate in 80 ml of THF, and heated under reflux for 8 h. The residue remaining after evaporation was purified by means of preparative HPLC (RP18, acetonitrile/water, 0.1% TFA). Yield: 4.69 g.

reactant | diphosgene | 36.7 mmol, 7.26 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 1-(6-amino-3,3-dimethyl-2,3-dihydroindol-1-yl)ethanone | 14.5 mmol, 3.0 g | NC1=CC=C2C(CN(C2=C1)C(C)=O)(C)C | C12H16N2O
reactant | methyl 2-methyl-2-[(pyridin-4-ylmethyl)amino]propionate | 14.7 mmol, 3.06 g | CC(C(=O)OC)(C)NCC1=CC=NC=C1 | C11H16N2O2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | C(C)(=O)N1CC(C2=CC=C(C=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)(C)C | C23H26N4O3
